* Subcircuit 74HC157
.subckt 74HC157 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ 
* c:\users\senba\desktop\fossee\esim\library\subcircuitlibrary\74hc157\74hc157.cir
* u2  net-_u1-pad1_ net-_u2-pad2_ d_inverter
* u3  net-_u2-pad2_ net-_u1-pad2_ net-_u11-pad1_ d_nor
* u4  net-_u1-pad1_ net-_u1-pad2_ net-_u10-pad1_ d_nor
* u5  net-_u11-pad1_ net-_u1-pad3_ net-_u13-pad1_ d_and
* u6  net-_u10-pad1_ net-_u1-pad4_ net-_u13-pad2_ d_and
* u7  net-_u11-pad1_ net-_u1-pad5_ net-_u14-pad1_ d_and
* u8  net-_u10-pad1_ net-_u1-pad6_ net-_u14-pad2_ d_and
* u9  net-_u11-pad1_ net-_u1-pad7_ net-_u15-pad1_ d_and
* u10  net-_u10-pad1_ net-_u1-pad8_ net-_u10-pad3_ d_and
* u11  net-_u11-pad1_ net-_u1-pad9_ net-_u11-pad3_ d_and
* u12  net-_u10-pad1_ net-_u1-pad10_ net-_u12-pad3_ d_and
* u13  net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ d_nor
* u14  net-_u14-pad1_ net-_u14-pad2_ net-_u14-pad3_ d_nor
* u15  net-_u15-pad1_ net-_u10-pad3_ net-_u15-pad3_ d_nor
* u16  net-_u11-pad3_ net-_u12-pad3_ net-_u16-pad3_ d_nor
* u17  net-_u13-pad3_ net-_u1-pad11_ d_inverter
* u18  net-_u14-pad3_ net-_u1-pad12_ d_inverter
* u19  net-_u15-pad3_ net-_u1-pad13_ d_inverter
* u20  net-_u16-pad3_ net-_u1-pad14_ d_inverter
a1 net-_u1-pad1_ net-_u2-pad2_ u2
a2 [net-_u2-pad2_ net-_u1-pad2_ ] net-_u11-pad1_ u3
a3 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u10-pad1_ u4
a4 [net-_u11-pad1_ net-_u1-pad3_ ] net-_u13-pad1_ u5
a5 [net-_u10-pad1_ net-_u1-pad4_ ] net-_u13-pad2_ u6
a6 [net-_u11-pad1_ net-_u1-pad5_ ] net-_u14-pad1_ u7
a7 [net-_u10-pad1_ net-_u1-pad6_ ] net-_u14-pad2_ u8
a8 [net-_u11-pad1_ net-_u1-pad7_ ] net-_u15-pad1_ u9
a9 [net-_u10-pad1_ net-_u1-pad8_ ] net-_u10-pad3_ u10
a10 [net-_u11-pad1_ net-_u1-pad9_ ] net-_u11-pad3_ u11
a11 [net-_u10-pad1_ net-_u1-pad10_ ] net-_u12-pad3_ u12
a12 [net-_u13-pad1_ net-_u13-pad2_ ] net-_u13-pad3_ u13
a13 [net-_u14-pad1_ net-_u14-pad2_ ] net-_u14-pad3_ u14
a14 [net-_u15-pad1_ net-_u10-pad3_ ] net-_u15-pad3_ u15
a15 [net-_u11-pad3_ net-_u12-pad3_ ] net-_u16-pad3_ u16
a16 net-_u13-pad3_ net-_u1-pad11_ u17
a17 net-_u14-pad3_ net-_u1-pad12_ u18
a18 net-_u15-pad3_ net-_u1-pad13_ u19
a19 net-_u16-pad3_ net-_u1-pad14_ u20
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u3 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u4 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u11 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u12 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u13 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u14 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u15 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u16 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 74HC157